US07888351B2
B) 7-Mercapto-3,4-dihydro-2H-isoquinolin-1-one
To a zinc powder (2.79 g, 42.7 mmol) and Dichlorodimethylsilane (5.15 mL, 42.7 mmol) in DCE (45 mL) is added a solution of 1-Oxo-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride (3 g, 12.2 mmol) and 1,3-dimethylimidazolidin-2-one (3.96 mL, 36.6 mmol) in DCE (5 mL). After stirring at rt during 2 h, the mixture is concentrated.

reactant | Dichlorodimethylsilane | 42.7 mmol, 5.15 mL | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | 1-Oxo-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride | 12.2 mmol, 3 g | O=C1NCCC2=CC=C(C=C12)S(=O)(=O)Cl | C9H8ClNO3S
reactant | 1,3-dimethylimidazolidin-2-one | 36.6 mmol, 3.96 mL | CN1C(N(CC1)C)=O | C5H10N2O
solvent | DCE | 45 mL | ClCCCl | C2H4Cl2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
catalyst | zinc | 42.7 mmol, 2.79 g | [Zn] | Zn
product | 7-Mercapto-3,4-dihydro-2H-isoquinolin-1-one | SC1=CC=C2CCNC(C2=C1)=O | C9H9NOS
